US05250548
Ethyl 2-bromomethylpyridine-3-carboxylate
Ethyl 2-methylpyridine-3-carboxylate is refluxed with N-bromosuccinimide in carbon tetrachloride with 1% equivalent dibenzyl peroxide to give the title compound.

reactant | Ethyl 2-methylpyridine-3-carboxylate | CC1=NC=CC=C1C(=O)OCC | C9H11NO2
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzyl peroxide | C(C1=CC=CC=C1)OOCC1=CC=CC=C1 | C14H14O2
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | Ethyl 2-bromomethylpyridine-3-carboxylate | BrCC1=NC=CC=C1C(=O)OCC | C9H10BrNO2
